US05354549
Pivaloyloxymethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
Chloromethylpivalate (12.0 ml., 82.6 mmol) in dry DMF (130 ml) is added dropwise during 20 minutes at 50° C. to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (50.0 g, 75.0 mmol) and sodium iodide (600 mg, 4.0 mmol) in dry dimethylformamide (DMF) (750 ml). The precipitate is removed by filtration after stirring for 4 hours and the solvent removed at reduced pressure. The residue is dissolved in chloroform (400 ml) and washed four times with a saturated sodium hydrogen carbonate solution. After drying with magnesium sulfate the solvent is removed at reduced pressure and the residue recrystallized from acetone to give the title compound: 26.6 g (53%); m.p. 232°-234° C. 1H-N.M.R. (CDCl3): delta=1.26 (s, C(CH3)3); 1.82 (s, N(CH3)COCH3); 2.22 (s, NCOCH3); 3.08 (s, NCH3); 6.02 (s, CH2); 8.15 ppm (s, NH).

reactant | Chloromethylpivalate | 82.6 mmol, 12.0 ml | ClCCC(C(=O)[O-])(C)C
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 75.0 mmol, 50.0 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 4.0 mmol, 600 mg | [I-].[Na+]
reactant | DMF | 130 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | Pivaloyloxymethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OCOC(C(C)(C)C)=O)I)N(C)C(C)=O)I | C18H21I3N2O6
